US08669361B2
Following Example 231, reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester gave 5-(3,6-dihydro-2H-pyran-4-yl)-1-methyl-4-nitro-1H-pyrazole (167 mg, 65%). 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 5.99-5.94 (m, 1H), 4.37 (q, J=2.8 Hz, 2H), 3.99 (t, J=5.3 Hz, 2H), 3.84 (s, 3H), 2.40-2.35 (m, 2H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester | O1CCC(=CC1)B1OC(C)(C)C(C)(C)O1 | C11H19BO3
product | 5-(3,6-dihydro-2H-pyran-4-yl)-1-methyl-4-nitro-1H-pyrazole | 167 mg, 65% | O1CCC(=CC1)C1=C(C=NN1C)[N+](=O)[O-] | C9H11N3O3
